US06180629B2
A. 3-(4-Pyridylmethylene)-isobenzofuran-1-one
In accordance with the procedure described in Lombardino, J.O.C. Vol. 32, pp. 1988-1992 (1967), a solution of isobenzofuran-1-one (13.4 g, 0.1 mol) and 4-pyridine carboxaldehyde (10.7 g, 0.1 mol) in 100 ml dry methanol are refluxed for 2 hours. The solvent is evaporated, and the product (3-(4-pyridylmethylene)isobenzofuran-1-one is used in the next step without further purification.

reactant | isobenzofuran-1-one | 0.1 mol, 13.4 g | C1(OCC2=CC=CC=C12)=O | C8H6O2
reactant | 4-pyridine carboxaldehyde | 0.1 mol, 10.7 g | N1=CC=C(C=C1)C=O | C6H5NO
solvent | methanol | 100 ml | CO | CH4O
product | 3-(4-Pyridylmethylene)-isobenzofuran-1-one | N1=CC=C(C=C1)C=C1OC(C2=CC=CC=C12)=O | C14H9NO2
